US07517875B2
After dissolving 4-tert-butoxycarbonylamino-3-[methyl-(2-nitro-benzenesulfonyl)-amino]-benzoic acid methyl ester (1.41 g, 2.73 mmol) in dimethylformamide (10 ml), potassium carbonate (1.13 g, 8.16 mmol) and thiophenol (0.307 ml, 2.99 mmol) were added in an ice bath, and the mixture was stirred at room temperature for 1 hour. Water (100 ml) was added to the reaction mixture, and extraction was performed with ethyl acetate (40 ml×3 times). The obtained organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (n-hexane/ethyl acetate=85/15) to obtain 4-tert-butoxycarbonylamino-3-methylamino-benzoic acid methyl ester. The compound was identified by LC-MS. Yield: 794.3 mg (62.7%), [M+1]=281.1.

reactant | 4-tert-butoxycarbonylamino-3-[methyl-(2-nitro-benzenesulfonyl)-amino]-benzoic acid methyl ester | 2.73 mmol, 1.41 g | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)=O | C20H23N3O8S
reactant | potassium carbonate | 8.16 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 2.99 mmol, 0.307 ml | C1(=CC=CC=C1)S | C6H6S
reactant | Water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 4-tert-butoxycarbonylamino-3-methylamino-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)NC)=O | C14H20N2O4
